Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lithium / plaster / steris strips / Macrobid / Abilify
 
Attending: ___.
 
Chief Complaint:
endometrial polyp / pelvic pain 
 
Major Surgical or Invasive Procedure:
hysteroscopy, D&C, polypectomy, Mirena IUD placement 

 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding; incision 
clean, dry, intact
Ext: no tenderness to palpation
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
pre-operatively for IV fluid given her history of diabetes 
insipidus and inability to be NPO overnight. On ___, patient 
underwent hysteroscopic polypectomy, D&C, and Mirena IUD 
placement. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV toradol. Her diet was 
advanced without difficulty, and she was transitioned to PO 
ibuprofen and Tylenol. 

By post-operative day 0, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
- Effexor 75 mg po daily
- Levothyroxine sodium 150 mcg po daily w/ 225 mcg once a week
- Buproprion HCl ER 300 mg po daily
- Potassium 2400 mg po daily
- Triamterene-HCTZ 37.5/25 mg po daily
- Depakote ER 1500 mg po daily
- Klor-Con M20 60 mg po daily
- Valtrex 1 gram po daily
- Sucralfate 3 gram po daily

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*1 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
please take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*1 
3.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
4.  Divalproex (EXTended Release) 1500 mg PO QHS  
5.  Levothyroxine Sodium 175 mcg PO DAILY  
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
7.  Venlafaxine XR 75 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometrial polyps / pelvic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for IV fluids prior 
to your surgery for your diabetes insipidus. You then underwent 
an uncomplicated hysteroscopy, polyp removal, D&C, and Mirena 
IUD placement. You have recovered well and the team believes you 
are ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 2 
weeks
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___